US07884127B2
2-Bromo-5-nitrobenzoic acid
2-Bromobenzoic acid (10 g, 49.75 mmol) was added in portions with stirring to an ice cold nitrating mixture of 98% H2SO4 (25 mL) and 69% HNO3 (12 mL) maintaining the temperature of the mixture below 5° C. The reaction mixture was stirred for 1 h. below 5° C. It was poured into ice water (200 mL). The white crystalline product obtained was filtered, washed with water and dried.

reactant | 2-Bromobenzoic acid | 49.75 mmol, 10 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 12 mL | [N+](=O)(O)[O-] | HNO3
product | 2-Bromo-5-nitrobenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO4
